US04057573
Analogously to the description in Example 2, 4.0 g of 5-thenoyl-6-hydroxy-indane-1-carboxylic acid methyl ester and 20 ml of 2N sodium hydroxide solution in 50 ml of methanol give 5-thenoyl-6-hydroxy-indane-1-carboxylic acid of melting point 183°-184° C (from ethyl acetate/petroleum ether).

reactant | sodium hydroxide | 2N, 20 ml | [OH-].[Na+]
reactant | 5-thenoyl-6-hydroxy-indane-1-carboxylic acid | C1(=CC=CS1)C(=O)C=1C=C2CCC(C2=CC1O)C(=O)O | C15H12O4S
reactant | methanol | 50 ml | CO | CH4O
product | 5-thenoyl-6-hydroxy-indane-1-carboxylic acid methyl ester | 4.0 g | COC(=O)C1CCC2=CC(=C(C=C12)O)C(C1=CC=CS1)=O | C16H14O4S
